US06800629B2
In 4 mL of methanol was dissolved 0.26 g of methyl 6-chloro-4-[(2R,3R,4S,5S)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate. While cooling the solution with ice, gaseous ammonia was introduced until saturation. The reaction mixture was stirred at an ice-cooled temperature for one hour and then the solvent was removed under reduced pressure. By purifying the residue thus obtained by column chromatography [eluent: chloroform:methanol=7:1], 0.06 g of 6-chloro-4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide was obtained as a light yellow-colored solid product.

reactant | methyl 6-chloro-4-[(2R,3R,4S,5S)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 0.26 g | ClC1=CN(C(C(=N1)C(=O)OC)=O)[C@@H]1O[C@H]([C@H]([C@H]1O)O)CO | C11H13ClN2O7
reactant | ammonia | N | H3N
solvent | methanol | 4 mL | CO | CH4O
product | 6-chloro-4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide | 0.06 g | ClC1=CN(C(C(=N1)C(=O)N)=O)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO | C10H12ClN3O6
